Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfonamides
 
Attending: ___
 
Chief Complaint:
transient diplopia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The pt is a ___ year-old R-handed W w/ hx of HL and
osteoporosis who presents with sudden onset, intermittent
symptoms of double vision starting at 1850 lasting ___ mins 
that
have now resolved.

Pt. states that today while riding in a car home from work
(school ___), she developed sudden onset double vision,
described as one image above and to the side of the other.  She
noted this while looking at lights on the side of the road.  
This
would come and go every ___ seconds or so and at that time she
felt that her heart was beating extremely fast and felt anxious. 

There were no other associated sx including headache, nausea,
loss of vision, dysarthria, dysphagia, vertigo hearing 
difficulty
(she has chronic hearing loss and wears hearing aides).

Upon arrival home, she got out of the car, felt unsteady on her
feet ("weak kneed"), was holding on to the car, and noted that
while walking up the steps to her home, she could not determine
which of the steps to put her foot on next, since they were 
again
"skewed."  She held on to the railing and walked to the door.  
By
the time she got to the door, the diplopia resolved.  While at
home and talking to her husband, who used their new iPhone to
look up double vision, they became concerned about a stroke and
came to ED.

Upon arrival to the ED, she continued to have a racing heart
feeling, however felt much improved.  SBP on arrival was 151/96. 

As she lay supine, she continued to improve to near her USOH.

No prior hx of similar episodes.

Neuro ROS:
Denies difficulties producing or comprehending speech.  
Denies focal weakness, numbness, parasthesiae. 
No bowel or bladder incontinence or retention. 
 
General ROS:
No fever or chills.  
No night sweats or recent weight loss.
Denies cough, shortness of breath. 
Denies chest pain.  
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  
Denies arthralgias or myalgias. 

 
Past Medical History:
- HL [pt. denies but has OMR evidence of LDL to 142] 
- Radius ORIF
- Lap for infertility
- T+A
- Arthroscopy of the knees
- Seborrheic keratoses
 

 
Social History:
___
Family History:
Denies: HTN, CAD, CAD, CVA, Sz
EtOH abuse
AD

 
Physical Exam:
Vitals: T:97.6F  P:61  R: 17  BP:131/69  SaO2: 100% RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, MMM, no lesions noted in oropharynx 
Neck: Supple, no carotid bruits appreciated.  
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND. 
Extremities: warm, dry, 2+ radial, DP pulses bilaterally. 
Skin: no rashes or lesions noted. 
 
Neurologic: 

-Mental Status: 
Alert, oriented x 3.  Able to relate history without difficulty. 

Attentive, able to name ___ backward without difficulty.  
Language is fluent with intact repetition and comprehension.  
Pt. was able to name both high and low frequency objects.  
Able to read without difficulty.  Speech was not dysarthric. 
Able to follow both midline and appendicular commands. 
Pt. was able to register 3 objects and recall ___ at 5 minutes.  

The pt. had good knowledge of current events.  
There was no evidence of apraxia or neglect. 
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 4 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI, no nystagmus, no diplopia.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, increased tone b/l ___. No pronator drift
bilaterally. 

No asterixis noted. 
                 
  Delt  Bic  Tri  WrE  FFl FE  IO  IP   Quad  Ham  TA ___ 
___ 
  C5    C56  C7   C6   C8  C7  T1  L12  L34   S1   L4  S12    L5 

L5,1
  ax    msk  rad  rad  Uln Pin Ul  Fem  Fem   Sci  Dp  Tib    Dp 

Dp
 
L  5    5    5    5    ___   5    5     5    5    5     4+ 

4+ 
R  5    5    5    5    ___   5    5     5    5    5     4+ 

4+

-Sensory: 
Light touch - intact
Pinprick - not tested
Cold sensation - intact
Vibratory sense - impaired L > R
Proprioception - intact

No extinction to DSS. 
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    3   1 
R  2  2    2    3   1
 
x-adductors in ___

___ response was flexor bilaterally. 
 
-Coordination: No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem with mild unsteadyness.  Romberg
absent.

 
Pertinent Results:
___ 12:07AM   ___ PTT-30.1 ___
___ 12:07AM   PLT COUNT-268
___ 12:07AM   WBC-5.2 RBC-4.20 HGB-12.4 HCT-37.3 MCV-89 
MCH-29.6 MCHC-33.4 RDW-13.5
___ 12:07AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:07AM   CK-MB-4 cTropnT-<0.01
___ 12:07AM   CK(CPK)-216*
___ 12:07AM   GLUCOSE-143* UREA N-24* CREAT-1.0 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-27 ANION GAP-12
___ 02:48AM   %HbA1c-5.6
___ 06:35AM   TRIGLYCER-55 HDL CHOL-73 CHOL/HDL-3.4 
LDL(CALC)-167*
___ 06:35AM   CALCIUM-9.0 PHOSPHATE-4.0 MAGNESIUM-2.2 
CHOLEST-251*
___ 06:35AM   CK-MB-4 cTropnT-<0.01
___ 06:35AM   CK(CPK)-224*
___ 06:35AM   UREA N-21* CREAT-1.0 SODIUM-143

MRI brain;
FINDINGS: There is no evidence of hemorrhage, edema, mass 
effect, or acute 
infarction. There are multiple scattered small T2 hyperintense 
foci within 
the periventricular and subcortical white matter and a focus 
within the pons 
which are most likely attributed to chronic ischemic 
microvascular disease. 
However, complete assessment is limited due to lack of IV 
contrast images. The 
ventricles and sulci are normal in caliber and configuration. No 
diffusion 
abnormalities are detected. 

CTA head/neck;
FINDINGS: There is a four-vessel aortic arch with the left 
vertebral artery 
arising directly from the aorta. The common and cervical 
internal carotid 
arteries are fully patent, with mild atherosclerosis at the 
carotid 
bifurcations, right greater than left. The external carotid 
arteries are 
patent. There is no abnormality of the anterior circulation. 
Incidental note 
is made of what appears to be a fenestrated left A1 segment. The 
vertebral 
arteries are patent and no abnormality of the posterior 
intracranial 
circulation is present. There is persistent fetal contribution 
at the 
formation of the posterior cerebral arteries bilaterally with 
small P1 
segments, left smaller than right. The sphenoid sinus septum 
inserts on the 
right carotid canal. 
  
IMPRESSION: Mild atherosclerotic disease at the carotid 
bifurcations, right 
greater than left with no high-grade stenoses or other vascular 
abnormalities. 

ECHO;
The left atrium is normal in size. A patent foramen ovale is 
present with left to right shunting with Valsalva manuever. . 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. Trivial mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: Small amount of passage of agitated saline with 
Valsalva manuever c/w patent foramen ovale. Preserved 
biventricular systolic function.  

 
Brief Hospital Course:
Ms. ___ is a ___ year-old W w/ hx of osteoporosis and no hx of 
DM, HTN but has hx of elevated LDL (not treated) and no FHx of 
CAD/CVA presenting with an intermittent
episode of skewed diplopia while driving home in a car, followed 
by difficulty walking up the steps (did not know where the steps 
were) in association with feeling of palpitations and anxiety w/ 
mild knee buckling.  Her exam is notable for significant 
difference in visual acuity, ___ in the right eye and ___ 
in the left eye as well as a likely cataract in the right eye.  
.
Based on history, the most concerning etiology is a small vessel 
brainstem TIA. Other etiology can include a visual disturbance 
in setting of vast difference in visual acuity, however it is 
difficult to account for the acute or stuttering presentation.  
She underwent an MRI which did not show any diffusion lesions, 
but FLAIR imaging had multiple bihemispheric spots and a spot in 
the pons. Thus, it is likely that she has had small vessel or 
microvessel strokes.  In light of the MRI findings and her 
elevated LDL (167 here), it is most likely that the episode of 
vertical diplopia was actually a TIA. Her neck and intracranial 
vessels are fine. She has bilateral fetal PCA, meaning the PCAs 
are coming off the anterior
circulation.  She was continued with ASA 81 mg, but also started 
her on Lipitor 80mg and a repeat lipid profile in 3 months. She 
was also encouraged to take Fish Oil capsules (about 1000mg of 
omega-3 fatty acids per day). She would also benefit from 
restarting her exercise routine again and from watching her diet 
a little bit
better.

 
Medications on Admission:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
 
Discharge Medications:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
3. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Likely TIA
Possible cataract
Hyperlipidemia

 
Discharge Condition:
MS; A&Ox3, speech fluent.  Naming, repetition, comphension 
intact.  
CN; Visual accuity ___ in R eye, ___ in L eye.  No red 
desaturation.  Eyes in midposition on primary gaze.  EOMI, VFF, 
no nystagmus.  Face symmetric, hearing intact to finger-rub b/l, 
palate symmetric, SCM and trap ___, tongue midline.
Motor; normal bulk and tone. no pronator drift  ___ strength 
throughout.
Sensory; intact to all modalities
Reflexes; 2+ and symmetric throughout, downgoing toes
Coordination; FNF and RAMs intact
Gait; good initiation, base, stride, and armswing.  Negative 
Romberg.
 
Discharge Instructions:
You were admitted after transient episodes of double vision.  
You underwent a CT head, CT angiogram, and MRI brain which did 
not show evidence of a stroke or problem with the blood vessels 
supplying the brain but did show brain abnormalities suggestive 
of possible prior strokes.  

Your blood tests did show an elevated cholesterol level (LDL 
167).  Therefore, we would recommend that you begin a medication 
to lower your cholesterol.  

You were started on the following medications:
- Aspirin 81mg daily
- Lipitor 80mg daily

On examination, you were seen to have poor visual accuity in 
your right eye and possibly have a cataract.  It was thought 
this may have also contibuted to your symptoms.  Please follow 
up with your opthomologist regarding this.

You also had liver function enzymes that were pending at time of 
discharge.  Please discuss the results with your PCP and Dr. 
___.
 
Followup Instructions:
___